US09388189B2
(S)—N-(6-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-1H-indol-4-yl)-4-hydroxybenzenesulfonamide
To a solution of (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (80 mg, 0.18 mmol) were added 4-methoxy-N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-4-yl)benzenesulfonamide (137 mg, 0.27 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(11)dichloride dichloromethane complex (14 mg, 0.02 mmol) and 182 μl of a 2M aqueous solution of cesium carbonate in dioxane (2 ml). The mixture was stirred under argon atmosphere at 100° C. for 18 hours and then diluted with ethyl acetate. The resulting solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The crude product was purified using SP1® Purification System (50% to 100%, hexane-ethyl acetate) to obtain 27 mg (21% yield, 95% purity) and 98 mg (72% yield, 88% purity) of the title compound as a white solid.

reactant | (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.18 mmol, 80 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 4-methoxy-N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-4-yl)benzenesulfonamide | 0.27 mmol, 137 mg | COC1=CC=C(C=C1)S(=O)(=O)NC1=C2C=CNC2=CC(=C1)B1OC(C(O1)(C)C)(C)C | C21H25BN2O5S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)—N-(6-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-1H-indol-4-yl)-4-hydroxybenzenesulfonamide | 21% yield | NC1=NC=NC(=C1C1=CC(=C2C=CNC2=C1)NS(=O)(=O)C1=CC=C(C=C1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C33H29N9O4S
